US08097636B2
(S)-4-(2-oxo-3-(7-(trifluoromethyl)-3,4-dihydroisoquinolin-2(1H)-yl)pyrrolidin-1-yl)-N-(thiazol-2-yl)benzenesulfonamide
A solution of (R)-4-fluoro-N-(4-(3-hydroxy-2-oxopyrrolidin-1-yl)phenylsulfonyl)-N-(thiazol-2-yl)benzenesulfonamide (12.4 g, 24.9 mmol) in DCM (80 mL) was stirred under nitrogen at −25° C. To the reaction mixture was added DIEA (9.6 g, 13 mL, 74.6 mmol) followed by dropwise addition of triflic anhydride (10.5 g, 6.30 mL, 37.3 mmol). The reaction mixture was stirred at −25° C. for 90 minutes. A solution of 7-trifluoromethyl-tetrahydroisoquinoline (5.0 g, 24.9 mmol) in DCM (10 mL) was added to the reaction mixture and stirring was continued under nitrogen at −25° C. for 1 h. Morpholine (4.33 g, 4.3 mL, 49.7 mmol) was added and the cooling bath was removed. The reaction mixture was stirred at room temperature for 30 minutes, concentrated under reduced pressure and purified by silica gel column chromatography (0.5-10% MeOH in DCM). The product obtained was taken up in DCM and precipitated by addition of Et2O providing a white solid (5.25 g, 40%), which was collected by filtration. 1H NMR (400 MHz, DMSO-d6) δ: 12.0 (s, 1H), 7.84 (dd, J=9.0, 22.8 Hz, 4H), 7.46 (bs, 2H), 7.32-7.30 (m, 1H), 7.26 (d, J=4.6 Hz, 1H), 6.83 (d, J=4.6 Hz, 1H), 4.12 (d, J=15.3 Hz, 1H), 3.92-3.78 (m, 4H), 3.15-3.10 (m, 1H), 2.90-2.83 (m, 3H), 2.34-2.27 (m, 1H) and 2.19-2.10 (m, 1H). LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=523.3; tR=1.18 minMS (ESI) m/e (M+H+) 523.3, retention time: 1.18 min (10-99% CH3CN in H2O).

reactant | (R)-4-fluoro-N-(4-(3-hydroxy-2-oxopyrrolidin-1-yl)phenylsulfonyl)-N-(thiazol-2-yl)benzenesulfonamide | 24.9 mmol, 12.4 g | FC1=CC=C(C=C1)S(=O)(=O)N(C=1SC=CN1)S(=O)(=O)C1=CC=C(C=C1)N1C([C@@H](CC1)O)=O | C19H16FN3O6S3
reactant | DIEA | 74.6 mmol, 13 mL, 9.6 g | CCN(C(C)C)C(C)C | C8H19N
reactant | triflic anhydride | 37.3 mmol, 6.30 mL, 10.5 g | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | 7-trifluoromethyl-tetrahydroisoquinoline | 24.9 mmol, 5.0 g | FC(C1=CC=C2CCNCC2=C1)(F)F | C10H10F3N
reactant | Morpholine | 49.7 mmol, 4.3 mL, 4.33 g | N1CCOCC1 | C4H9NO
solvent | DCM | 80 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (S)-4-(2-oxo-3-(7-(trifluoromethyl)-3,4-dihydroisoquinolin-2(1H)-yl)pyrrolidin-1-yl)-N-(thiazol-2-yl)benzenesulfonamide | O=C1N(CC[C@@H]1N1CC2=CC(=CC=C2CC1)C(F)(F)F)C1=CC=C(C=C1)S(=O)(=O)NC=1SC=CN1 | C23H21F3N4O3S2
